US09340556B2
To a solution of 1-cyclopropyl-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (10 g, 34.6 mmol) in Dichloromethane (DCM) (150 mL) was added BBr3 (16.34 mL, 173 mmol) at −78° C. The mixture was allowed to warm up to rt, and stirred at rt overnight. LCMS indicated completion of the reaction. The mixture was diluted with MeOH and concentrated. This procedure was repeated several times to afford 1-cyclopropyl-6,7-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (8.2 g, 31.4 mmol, 91% yield) as yellow solid. The crude product was used in next step reaction without further purification.

reactant | 1-cyclopropyl-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 34.6 mmol, 10 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)OC)OC)=O)C(=O)O | C15H15NO5
reactant | BBr3 | 173 mmol, 16.34 mL | B(Br)(Br)Br | BBr3
solvent | Dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 1-cyclopropyl-6,7-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 31.4 mmol, 8.2 g, 91% yield | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)O)O)=O)C(=O)O | C13H11NO5
